US07381841B2
b) Methyl 5-methanesulfonyl-2-methyl-4-(4-pentafluorosulfanylphenyl-sulfanyl)benzoate
0.28 g of 4-pentafluorosulfanylthiophenol, 0.36 g of methyl 4-bromo-5-methanesulfonyl-2-methylbenzoate and 0.33 g of K2CO3 were dissolved in 8 ml of anhydrous DMF and stirred at 110° C. for 2 h. The reaction mixture was then poured into 100 ml of water and extracted twice with 100 ml of EA each time. The EA phase was then washed twice with 30 ml of water each time. The residue after drying over MgSO4 and removal of the solvent in vacuo was chromatographed on silica gel with CH2Cl2/DIP 1:2. 320 mg of a colorless foam were obtained.

reactant | 4-pentafluorosulfanylthiophenol | 0.28 g | FS(C1=CC=C(C=C1)S)(F)(F)(F)F | C6H5F5S2
reactant | methyl 4-bromo-5-methanesulfonyl-2-methylbenzoate | 0.36 g | BrC1=CC(=C(C(=O)OC)C=C1S(=O)(=O)C)C | C10H11BrO4S
reactant | K2CO3 | 0.33 g | C(=O)([O-])[O-].[K+].[K+]
reactant | water | 100 ml | O | H2O
solvent | DMF | 8 ml | CN(C)C=O | C3H7NO
product | Methyl 5-methanesulfonyl-2-methyl-4-(4-pentafluorosulfanylphenyl-sulfanyl)benzoate | 320 mg | CS(=O)(=O)C=1C(=CC(=C(C(=O)OC)C1)C)SC1=CC=C(C=C1)S(F)(F)(F)(F)F | C16H15F5O4S3
